US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-ethyl-N-quinolin-4-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with ethyl-quinolin-4-ylmethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | ethyl-quinolin-4-ylmethyl-amine | C(C)NCC1=CC=NC2=CC=CC=C12 | C12H14N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-ethyl-N-quinolin-4-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=CC=NC2=CC=CC=C12)CC)C1=CC=C(C=C1)C | C31H35N3O3S
